US07449466B2
A mixture of 2-chloro-4-nitrophenol (2.761 g), chloromethyl methyl ether (2.4 mL), acetone (16 mL) and potassium carbonate (3.1 g) was heated under reflux for 5 hours. The reaction mixture was poured in saturated saline solution, and the product was extracted with diethyl ether. The organic layer was washed with saturated saline solution, dried over anhydrous magnesium sulfate, and the solvent was distilled off, to provide crude 2-chloro-1-methoxy-methoxy-4-nitrobenzene (3.091 g).

reactant | 2-chloro-4-nitrophenol | 2.761 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | chloromethyl methyl ether | 2.4 mL | COCCl | C2H5ClO
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 16 mL | CC(=O)C | C3H6O
product | 2-chloro-1-methoxy-methoxy-4-nitrobenzene | 3.091 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])OCOC | C8H8ClNO4
